US06924298B2
Preparation of 2-(3,5-dichloro-4-pyridinyl)-4-(4-(4-ethoxyphenyl)phenyl)oxazoline (Compound 12)
A solution of 2-(3,5-dichloro-4-pyridinyl)-4-(4-iodophenyl)oxazoline (0.2 g, 0.48 mmol), p-ethoxybenzeneboronic acid (0.095 g, 0.57 mmol), sodium carbonate (0.076 g, 0.72 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.025 g) and tri-o-tolylphosphine (0.020 g) was heated at reflux for 12 h under an atmosphere of nitrogen. After cooling, 1N HCl (15 mL) was added and the mixture was extracted with diethyl ether (3×30 mL). The combined ether layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (eluant, ether/hexane—1:1) to give the product as an off-white solid: mp 121-122° C.

reactant | 2-(3,5-dichloro-4-pyridinyl)-4-(4-iodophenyl)oxazoline | 0.48 mmol, 0.2 g | ClC=1C=NC=C(C1C=1OCC(N1)C1=CC=C(C=C1)I)Cl | C14H9Cl2IN2O
reactant | p-ethoxybenzeneboronic acid | 0.57 mmol, 0.095 g | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | sodium carbonate | 0.72 mmol, 0.076 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolylphosphine | 0.020 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | HCl | 1N, 15 mL | Cl | ClH
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.025 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3,5-dichloro-4-pyridinyl)-4-(4-(4-ethoxyphenyl)phenyl)oxazoline | ClC=1C=NC=C(C1C=1OCC(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC)Cl | C22H18Cl2N2O2
